US05166214
Part D. To a solution of N'-(2,4-difluorophenyl)-N-heptyl-N-5-hydroxypentylurea (15.0 g, 0.042 mol) and carbon tetrabromide (16.75 g, 0.051 mol) in methylene chloride (350 mL) under a nitrogen atmosphere at ambient temperature, a solution of triphenylphosphine (13.24 g, 0.051 mol) in methylene chloride (100 mL) was added slowly. The reaction mixture was stirred for 3 hours and was concentrated in vacuo to give crude viscous oil. The product was purified by flash chromatography on silica gel (400 mL) eluting with hexane:ethyl acetate (90:10 v:v) to give N-(5-bromopentyl)-N'-(2,4-difluorophenyl)-N-heptylurea as a viscous colorless oil (17.5 g, 0.042 mol). 1H NMR (CDCl3) δ8.14-8.00(m,1H), 6.92-6.79(m,2H), 6.35(bs,1H), 3.49-3.25(m,6H), 1.99-1.26(m,16H), 0.915(t,3H).

reactant | N'-(2,4-difluorophenyl)-N-heptyl-N-5-hydroxypentylurea | 0.042 mol, 15.0 g | FC1=C(C=CC(=C1)F)NC(N(CCCCCO)CCCCCCC)=O | C19H30F2N2O2
reactant | carbon tetrabromide | 0.051 mol, 16.75 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.051 mol, 13.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 350 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(5-bromopentyl)-N'-(2,4-difluorophenyl)-N-heptylurea | 0.042 mol, 17.5 g | BrCCCCCN(C(=O)NC1=C(C=C(C=C1)F)F)CCCCCCC | C19H29BrF2N2O
